US07105567B2
By the reaction and treatment in the same manner as in Example 2 using methyl 4-[(4-octylphenyl)aminomethyl]benzoate (2.65 g) and 2,6-diisopropylphenyl isocyanate (1.68 g) as starting materials, methyl 4-{[3-(2,6-diisopropylphenyl)-1-(4-octylphenyl)ureido]methyl}benzoate (0.29 g) was obtained.

reactant | methyl 4-[(4-octylphenyl)aminomethyl]benzoate | 2.65 g | C(CCCCCCC)C1=CC=C(C=C1)NCC1=CC=C(C(=O)OC)C=C1 | C23H31NO2
reactant | 2,6-diisopropylphenyl isocyanate | 1.68 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | methyl 4-{[3-(2,6-diisopropylphenyl)-1-(4-octylphenyl)ureido]methyl}benzoate | 0.29 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=C(C=C1)CCCCCCCC)CC1=CC=C(C(=O)OC)C=C1)=O | C36H48N2O3
